US07384930B2
(S)-9-Neopentyl-7-(2-oxo-2-(4-(3-oxo-3,4-dihydroisoquinolin-2(1H)-yl)piperidin-1-yl)ethyl)-6,7,9,10-tetrahydroazepino[3,4-e]indazol-8(3H)-one.
2-(Piperidin-4-yl)-1,2-dihydroisoquinolin-3(4H)-one (105 mg, 0.46 mmol) and [9-(2,2-dimethyl-propyl)-8-oxo-3,6,7,8,9,10-hexahydro-2,3,9-triaza-(S)-cyclohepta[e]inden-7-yl]acetic acid (110 mg, 0.33 mmol) were combined in a manner analogous to the preparation of 4-Chloro-9-(2,2-dimethyl-propyl)-7-(R)-{2-oxo-2-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-ethyl}-6,7,9,10-tetrahydro-3H-2,3,9-triaza-cyclohepta[e]inden-8-one. Title compound was obtained as a white solid in 40% yield. High resolution MS m/e (M+H)+=541.3111.

reactant | 2-(Piperidin-4-yl)-1,2-dihydroisoquinolin-3(4H)-one | 0.46 mmol, 105 mg | N1CCC(CC1)N1CC2=CC=CC=C2CC1=O | C14H18N2O
reactant | 4-Chloro-9-(2,2-dimethyl-propyl)-7-(R)-{2-oxo-2-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-ethyl}-6,7,9,10-tetrahydro-3H-2,3,9-triaza-cyclohepta[e]inden-8-one | ClC1=CC2=C(C=3C=NNC13)CN(C([C@H](C2)CC(N2CCC(CC2)N2C(NC1=CC=CC=C1C2)=O)=O)=O)CC(C)(C)C | C31H37ClN6O3
product | (S)-9-Neopentyl-7-(2-oxo-2-(4-(3-oxo-3,4-dihydroisoquinolin-2(1H)-yl)piperidin-1-yl)ethyl)-6,7,9,10-tetrahydroazepino[3,4-e]indazol-8(3H)-one | 40% yield | C(C(C)(C)C)N1CC=2C=3C=NNC3C=CC2C[C@H](C1=O)CC(N1CCC(CC1)N1CC2=CC=CC=C2CC1=O)=O | C32H39N5O3
